US07074800B1
4-(4-Bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methylsulphonylamino)propoxy)quinazoline (1.0 g, 2 mmol) was taken up in DMF (10 ml), treated with sodium hydride (60% dispersion in mineral oil, 0.11 g, 2.7 mmol) and stirred, under nitrogen for 30 minutes. Methyl iodide (0.16 ml, 2.6 mmol) was added and the mixture stirred for 18 hours. The solvent was removed by evaporation and the residue taken up in water and extracted with dichloromethane (3×30 ml). The organic solution was then washed with water, brine, dried (MgSO4) and evaporated to dryness. The crude product was purified by silica column chromatography eluting with methanol (2.5 to 5%) in dichloromethane to give 4-(4-bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methyl N-methylsulphonylamino) propoxy)quinazoline (0.86 g, 83%).

reactant | 4-(4-Bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methylsulphonylamino)propoxy)quinazoline | 2 mmol, 1.0 g | BrC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCNS(=O)(=O)C)C=C1)F | C19H19BrFN3O5S
reactant | sodium hydride | 2.7 mmol, 0.11 g | [H-].[Na+]
reactant | Methyl iodide | 2.6 mmol, 0.16 ml | CI | CH3I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(4-bromo-2-fluorophenoxy)-6-methoxy-7-(3-(N-methyl N-methylsulphonylamino) propoxy)quinazoline | 0.86 g, 83% | BrC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)OCCCN(S(=O)(=O)C)C)C=C1)F | C20H21BrFN3O5S
